US20010044445A1
S-Methyl 4,4,4-trifluoro-3-oxothiobutyrate (2.76 mL, 0.02 mol) and p-nitrophenylhydrazine (3.06 g, 0.02 mol) were dissolved in ethanol 18 mL and 4M HCl/dioxane (18 mL). The solution was refluxed overnight. After cooling the reaction mixture to room temperature, it was partitioned between ether and water. The ether layer was extracted with saturated aquesous NaHCO3 (3x), washed with brine, dried over Na2SO4 and evaporated to give 5-(methylsulfanyl)-1-(4-nitrophenyl)-3-(trifluoromethyl)-1H-pyrazole (Example 309A-1, 0.61 g, 10% yield). The NaHCO3 extractions were combined and washed with ether. The NaHCO3 solution was then acidified with 1N HCl to pH≈5 and extracted with ether (3x). The ether extracts were combined, dried over Na2SO4 and concentrated to give 1-(4-nitrophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-ol (Example 309A-2, 4.02 g, 74% yield).

reactant | S-Methyl 4,4,4-trifluoro-3-oxothiobutyrate | 0.02 mol, 2.76 mL | FC(C(CC(=O)SC)=O)(F)F | C5H5F3O2S
reactant | p-nitrophenylhydrazine | 0.02 mol, 3.06 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
solvent | ethanol | 18 mL | C(C)O | C2H6O
solvent | HCl dioxane | 4M, 18 mL | Cl.O1CCOCC1
product | 5-(methylsulfanyl)-1-(4-nitrophenyl)-3-(trifluoromethyl)-1H-pyrazole | 0.61 g, 10% yield | CSC1=CC(=NN1C1=CC=C(C=C1)[N+](=O)[O-])C(F)(F)F | C11H8F3N3O2S
